US09403798B2
tert-Butyl 4-[(4-fluorophenyl)amino]piperidine-1-carboxylate
Under a nitrogen atmosphere, a xylene solution (65 mL) of tert-butyl 4-amino-piperidine-1-carboxylate (1.00 g, 5.00 mmol), 4-bromo-1-fluorobenzene (0.500 mL, 4.57 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethyl-[1,1′-biphenyl]-2-amine (360 mg, 1.00 mmol), and tris(dibenzylideneacetone)dipalladium (0) (209 mg, 0.250 mmol) was stirred at 140° C. for 4 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure and purified by silica gel column chromatography (hexane/ethyl acetate=100/0→70/30 (v/v)) to obtain the title compound (980 mg, yield 66%).

reactant | tert-butyl 4-amino-piperidine-1-carboxylate | 5.00 mmol, 1.00 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-bromo-1-fluorobenzene | 4.57 mmol, 0.500 mL | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethyl-[1,1′-biphenyl]-2-amine | 1.00 mmol, 360 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
catalyst | tris(dibenzylideneacetone)dipalladium | 0.250 mmol, 209 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | xylene | 65 mL | C=1(C(=CC=CC1)C)C | C8H10
product | tert-Butyl 4-[(4-fluorophenyl)amino]piperidine-1-carboxylate | 980 mg, yield 66% | FC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H23FN2O2
